US08067448B2
N-((2R,3S)-2-(3-Chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-4-(methylsulphonyl)benzohydrazide
(2R,3S)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoic acid (813 mg, 3.0 mmol) and 4-(methylsulfonyl)benzohydrazide (648 mg, 3.0 mmol) were coupled in a procedure analogous to that described for the preparation of intermediate 3b. The crude product was recrystallized from hotchloroform (100 mL to yield product as a white solid (1.16 g, 82%). 1H NMR (500 MHz, acetone-d6, δ in ppm) 9.83 (br s, 2H), 8.14 (AA′XX′, J=8.5 Hz, 2H), 8.06 (AA′XX′, J=8.5 Hz, 2H), 7.53 (d, J=8.6 Hz, 1H), 6.70 (d, J=8.7 Hz, 1H), 5.57 (d, J=7.0 Hz, 1H), 4.40 (m, 1H), 4.14 (dd, J=3.4, 6.9 Hz, 1H), 3.19 (s, 3H), 2.90 (br s, 1H), 2.36 (s, 3H), 1.36 (d, J=6.4 Hz, 3H).

reactant | (2R,3S)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoic acid | 3.0 mmol, 813 mg | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)O)[C@H](C)O)C | C12H13ClN2O3
reactant | 4-(methylsulfonyl)benzohydrazide | 3.0 mmol, 648 mg | CS(=O)(=O)C1=CC=C(C(=O)NN)C=C1 | C8H10N2O3S
product | N-((2R,3S)-2-(3-Chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-4-(methylsulphonyl)benzohydrazide | 1.16 g, 82% | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)N(N)C(C1=CC=C(C=C1)S(=O)(=O)C)=O)[C@H](C)O)C | C20H21ClN4O5S
